US07465728B2
N-(2-Ethoxyethyl)-4-iodobenzenesulphonamide
2-Ethoxyethylamine (2.14 g, 24 mmol) and diisopropylethylamine (4.2 ml, 24 mmol) were dissolved in DCM (50 ml) and cooled to 0° C. To this was added pipsyl chloride (6.05 g, 20 mmol) in portions and the reaction stirred for 18 hours. Volatiles were evaporated in vacuo. The residue was dissolved in EtOAc (50 ml), washed with 0.33M citric acid (2×50 ml), brine (50 ml), dried and evaporated in vacuo to yield an oil which solidified on standing to give the title compound as a pale yellow solid (6.97 g, 98%). NMR: 1.01 (t, 3H), 2.89 (q, 2H), 3.30 (m, 4H), 7.53 (d, 2H), 7.75 (t, 1H), 7.97 (d, 2H); m/z 354 (M−H)−.

reactant | 2-Ethoxyethylamine | 24 mmol, 2.14 g | C(C)OCCN | C4H11NO
reactant | diisopropylethylamine | 24 mmol, 4.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pipsyl chloride | 20 mmol, 6.05 g | C1=CC(=CC=C1S(=O)(=O)Cl)I | C6H4ClIO2S
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Ethoxyethyl)-4-iodobenzenesulphonamide | 6.97 g, 98% | C(C)OCCNS(=O)(=O)C1=CC=C(C=C1)I | C10H14INO3S
